US05981762
Ethyl 5-carbonylphenyl-3-methyl-indole-2-caboxylate
To a solution of ethyl 3-methyl-indole-2-carboxylate (1.5 g, 7.9 mmol) and dichloroethane (20 mL) was added a solution of benzoyl chloride (2.23 g, 15.9 mmol) and dichloroethane (10 mL). Anhydrous aluminum trichloride (2.1 g, 15.8 mmol) was added in one portion and the reaction mixture was heated to reflux for 4 hours. The mixture was then poured over ice and neutralized with potassium acetate. The organic layer was separated, washed with a 5% solution of NaHCO3 and dried over MgSO4. The organic solution was then filtered, concentrated and subjected to silica gel chromatography with ethyl acetate--hexanes mixtures as eluent to provide the title compound (0.94 g). Recrystallization from benzene gave a yellow solid (mp 180-181° C.).

reactant | ethyl 3-methyl-indole-2-carboxylate | 7.9 mmol, 1.5 g | CC1=C(NC2=CC=CC=C12)C(=O)OCC | C12H13NO2
reactant | benzoyl chloride | 15.9 mmol, 2.23 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum trichloride | 15.8 mmol, 2.1 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | Ethyl 5-carbonylphenyl-3-methyl-indole-2-caboxylate | 0.94 g | C(=O)=C1CC=CC(=C1)C1=C2C(=C(NC2=CC=C1)C(=O)OCC)C | C19H17NO3
